US07462623B2
7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(2,3-methylenedioxypyrid-4-ylamino)-5-tetrahydropyran-4-yloxyquinazoline
Using an analogous procedure to that described in Example 1, 7-[2-(4-acetylpiperazin-1-yl)ethoxy]chloro-5-tetrahydropyran-4-yloxyquinazoline (0.113 g) was reacted with 4-amino-2,3-methylenedioxypyridine (0.036 g). The reaction mixture was quenched with glacial acetic acid (0.031 g) and diluted with methanol. The mixture was evaporated and the residue was purified by column chromatography on a C18 reversed phase silica column (Waters Symmetry column, 5 microns silica, 20 mm diameter, 100 mm length) using a decreasingly polar mixture of water and acetonitrile (containing 1% acetic acid) as eluent. The material so obtained was diluted with a 7M methanolic ammonia solution. The mixture was evaporated and the material so obtained was dissolved in methylene chloride. The solution was dried over magnesium sulphate and evaporated to give the title compound as a foam in 53% yield; NMR Spectrum: (CDCl3) 2.02 (m, 2H), 2.1 (s, 3H), 2.22 (m, 2H), 2.6 (m, 4H), 2.9 (m, 2H), 3.51 (m, 2H), 3.6 (m, 2H), 3.66 (m, 2H), 4.1 (m, 2H), 4.25 (m, 2H), 4.73 (m, 1H), 6.13 (s, 2H), 6.59 (s, 1H), 6.9 (s, 1H), 7.7 (d, 1H), 8.36 (d, 1H), 8.66 (s, 1H); Mass Spectrum: M+H+ 537.

reactant | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]chloro-5-tetrahydropyran-4-yloxyquinazoline | 0.113 g | C(C)(=O)N1CCN(CC1)CCOC1=CC(=C2C=NC(=NC2=C1)Cl)OC1CCOCC1 | C21H27ClN4O4
reactant | 4-amino-2,3-methylenedioxypyridine | 0.036 g | NC1=C2C(=NC=C1)OCO2 | C6H6N2O2
solvent | ammonia | 7M | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(2,3-methylenedioxypyrid-4-ylamino)-5-tetrahydropyran-4-yloxyquinazoline | 53% yield | C(C)(=O)N1CCN(CC1)CCOC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1)OCO2)OC2CCOCC2 | C27H32N6O6
